US09238639B2
A) 2,5-Dichloro-1-methoxy-3-((4-methoxybenzyl)sulfanyl)benzene
To a mixture of DIPEA (5.77 mL), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.488 g), 1-bromo-2,5-dichloro-3-methoxybenzene (4.32 g) and (4-methoxyphenyl)methanethiol (2.47 mL) and toluene (100 mL) was added tris(dibenzylideneacetone)dipalladium (0) (Pd2(dba)3, 0.773 g) at room temperature. The mixture was refluxed for 5 h. After cooling, water was added to the mixture and the mixture was extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (5.66 g).

reactant | DIPEA | 5.77 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.488 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | 1-bromo-2,5-dichloro-3-methoxybenzene | 4.32 g | BrC1=C(C(=CC(=C1)Cl)OC)Cl | C7H5BrCl2O
reactant | (4-methoxyphenyl)methanethiol | 2.47 mL | COC1=CC=C(C=C1)CS | C8H10OS
catalyst | tris(dibenzylideneacetone)dipalladium | 0.773 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2,5-Dichloro-1-methoxy-3-((4-methoxybenzyl)sulfanyl)benzene | 5.66 g | ClC1=C(C=C(C=C1SCC1=CC=C(C=C1)OC)Cl)OC | C15H14Cl2O2S
